US07166604B2
Phosphorous oxychloride (5 ml) was added to a mix of dimethylaniline (157 mg, 1.3 mmol) and 6-methoxy-4-hydroxycinnoline (208 mg, 1.2 mmol). The reaction was heated at reflux for 15 min, then cooled and concentrated under vacuum. The residue was partitioned between chloroform (100 ml) and water (30 ml), then the organic layer was washed with brine and dried (Na2SO4). Chromatography of the residue adsorbed onto silica gel (3 g) on silica gel (15 g) eluent CH2Cl2 to 10% Ethylacetate/CH2Cl2 gave 6-methoxy-4-chlorocinnoline (135 mg, 0.7 mmol) in 59% yield as white yellow solid. δH (CDCl3)=4.03 (s, 3H); 7.28 (d, 1H); 7.51 (dd, 1H); 8.41 (d, 1H) and 9.22 (br s, 1H). MS (ESI) (M+H)+195.

reactant | Phosphorous oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylaniline | 1.3 mmol, 157 mg | CN(C1=CC=CC=C1)C | C8H11N
reactant | 6-methoxy-4-hydroxycinnoline | 1.2 mmol, 208 mg | COC=1C=C2C(=CN=NC2=CC1)O | C9H8N2O2
product | 6-methoxy-4-chlorocinnoline | 0.7 mmol, 135 mg, 59% yield | COC=1C=C2C(=CN=NC2=CC1)Cl | C9H7ClN2O
